US04239901
7.38 g (20 mmoles) of 3-chloro-4-(4-chloropyrazol-1-yl)phenylmalonic acid diethyl ester are dissolved in 20 ml of absolute ethanol; a solution of sodium ethanolate in ethanol (consisting of 470 mg of sodium in 20 ml of ethanol) is added; stirring is effected at 40° C. for half an hour and 2.84 g (20 mmoles) of methyl iodide are added. Boiling under reflux is effected for 4 hours; again, 2.84 g of methyl iodide are added, followed by heating for a further 2 hours, concentration, and taking up with diethyl ether. The ethereal phase is washed with sodium hydrogen sulphite solution and water, dried and concentrated. Methyl-[3-chloro-4-(4-chloropyrazol-1-yl) phenyl] malonic acid diethyl ester is obtained.

reactant | 3-chloro-4-(4-chloropyrazol-1-yl)phenylmalonic acid diethyl ester | 20 mmoles, 7.38 g | C(C)OC(C(C(=O)OCC)C1=CC(=C(C=C1)N1N=CC(=C1)Cl)Cl)=O | C16H16Cl2N2O4
reactant | sodium ethanolate | C(C)[O-].[Na+]
reactant | methyl iodide | 20 mmoles, 2.84 g | CI | CH3I
reactant | methyl iodide | 2.84 g | CI | CH3I
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml, 470 mg | C(C)O | C2H6O
product | Methyl-[3-chloro-4-(4-chloropyrazol-1-yl) phenyl] malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(C1=CC(=C(C=C1)N1N=CC(=C1)Cl)Cl)C)=O | C17H18Cl2N2O4
